US03939155
To a solution of 116 parts of 3-methoxyspiro[estra-1,3,5(10)-triene-17,2'(5'H)-furan] in 1100 parts of tetrahydrofuran at 5°-10° under nitrogen is added, with stirring, a solution of approximately 5 parts of borane in 325 parts of tetrahydrofuran. Stirring at 5°-10° is continued for 21/4 hours, whereupon a solution of 26 parts of sodium hydroxide in 213 parts of water followed -- cautiously -- by 131 parts of 30% hydrogen peroxide is mixed in. The resultant mixture is acidified with 20% hydrochloric acid and then poured into 7000 parts of ice water. The precipitate which forms is isolated by filtration, washed with water, dried in air, and taken up in benzene. The benzene solution is chromatographed on silica gel, using benzene and mixtures thereof with increasing amounts of ethyl acetate as developing solvents. From an eluate comprising 10% ethyl acetate in benzene, on evaporation of solvent and recrystallization of the residue from ethyl acetate, 4' ,5'-dihydro-3-methoxyspiro[estra-1,3,5(10)-triene-17,2'(3'H)-furan]-4'-ol melting at 95°-97° is obtained.

reactant | 3-methoxyspiro[estra-1,3,5(10)-triene-17,2'(5'H)-furan] | COC1=CC=2CC[C@H]3[C@@H]4CCC5(OCC=C5)[C@@]4(C)CC[C@@H]3C2C=C1 | C22H28O2
reactant | borane | B | BH3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4' ,5'-dihydro-3-methoxyspiro[estra-1,3,5(10)-triene-17,2'(3'H)-furan]-4'-ol | COC1=CC=2CC[C@H]3[C@@H]4CCC5(OCC(C5)O)[C@@]4(C)CC[C@@H]3C2C=C1 | C22H30O3
